US07034082B2
The compound [CF3SO2C(MgCl)2SO2CF2]2CF2 is prepared from the hexafluoropropane-1,3-disulfonic acid fluoride according to the following reactions sequence: [FSO2CF2]2CF2+2CF3SO2CH3+4LiH→2H2+[CF3SO2CH(Li)SO2CF2]2CF2 [CF3SO2CH(Li)SO2CF2]2CF2+2C4H9Li+4MgCl2 ? [CF3SO2C(MgCl)2SO2CF2]2CF2+2C4H10+2LiCl

reactant | hexafluoropropane-1,3-disulfonic acid fluoride | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(S(=O)(=O)F)F | C3F8O4S2
reactant | [FSO2CF2]2CF2 | C(F)(F)(C(F)(F)S(=O)(=O)F)C(F)(F)S(=O)(=O)F | C3F8O4S2
reactant | [CF3SO2C(MgCl)2SO2CF2]2CF2 2C4H10 | C(F)(F)(C(F)(F)S(=O)(=O)C([Mg]Cl)([Mg]Cl)S(=O)(=O)C(F)(F)F)C(F)(F)S(=O)(=O)C([Mg]Cl)([Mg]Cl)S(=O)(=O)C(F)(F)F.CC(C)C[C@H]1C(=O)N[C@@H](C(=O)N2CCC[C@H]2C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N[C@H](C(=O)N1)CCCN)C(C)C)CC3=CC=C(C=C3)O)CCC(=O)N)CC(=O)N)CC4=CC=CC=C4)CC5=CC=CC=C5)CC6=CC=CC=C6
product | [CF3SO2C(MgCl)2SO2CF2]2CF2 | C(F)(F)(C(F)(F)S(=O)(=O)C([Mg]Cl)([Mg]Cl)S(=O)(=O)C(F)(F)F)C(F)(F)S(=O)(=O)C([Mg]Cl)([Mg]Cl)S(=O)(=O)C(F)(F)F | InChI=1S/C7F12O8S4.4ClH.4Mg/c8-3(9,4(10,11)28(20,21)1-30(24,25)6(14,15)16)5(12,13)29(22,23)2-31(26,27)7(17,18)19;;;;;;;;/h;4*1H;;;;/q;;;;;4*+1/p-4
